### PR TITLE
feat(library/nat): add exponentiation for natural numbers

### PR DESCRIPTION
**Pull request by cipher1024**

### CODE REVIEW

File: library/data/bitvec.lean [hunk 1]
```diff
@@ -136,20 +136,49 @@ end comparison
 section conversion
   variable {α : Type}
 
+  @[reducible]
+  protected def list_of_nat : ℕ → ℕ → list bool
+  | 0        x := list.nil
+  | (succ n) x := list_of_nat n (x / 2) ++ [to_bool (x % 2 = 1)]
+
   protected def of_nat : Π (n : ℕ), nat → bitvec n
```
Comment (joehendrix) [inline library/data/bitvec.lean]: If seems like it'd make sense to define of_nat in terms of list_of_nat, or just prove everything in terms of of_nat.  Also why is list_of_nat reducible?

File: library/data/bitvec.lean [hunk 2]
```diff
@@ -165,6 +194,69 @@ private def to_string {n : nat} : bitvec n → string
...
 ⟨to_string⟩
+
+theorem bits_to_nat_of_to_bool (n : nat)
+: bitvec.bits_to_nat [to_bool (n % 2 = 1)] = n % 2
+:=
+   or.elim (nat.mod_2_or n)
+     (assume h : n % 2 = 0, begin rw h, refl end)
+     (assume h : n % 2 = 1, begin rw h, refl end)
+
+end bitvec
```
Comment (joehendrix) [inline library/data/bitvec.lean]: Seems confusing to end bitvec, define a theorem in bitvec, then start namespace bitvec.

File: library/data/vector.lean [hunk 3]
```diff
@@ -92,6 +92,10 @@ end accum
 protected lemma eq {n : ℕ} : ∀ (a1 a2 : vector α n), to_list a1 = to_list a2 → a1 = a2
 | ⟨x, h1⟩ ⟨.x, h2⟩ rfl := rfl
 
+@[simp] lemma to_list_tag {n : ℕ} {xs : list α} (Pxs : list.length xs = n)
```
Comment (joehendrix) [inline library/data/vector.lean]: Where is this theorem needed?  It should generally happen automatically in semi reducible contexts.

File: library/init/data/list/lemmas.lean [hunk 4]
```diff
@@ -154,6 +158,24 @@ by induction l; simph
 @[simp] lemma map_reverse (f : α → β) (l : list α) : map f (reverse l) = reverse (map f l) :=
 by induction l; simph
 
+lemma reverse_core_append' (xs ys zs : list α) :
```
Comment (joehendrix) [inline library/init/data/list/lemmas.lean]: reverse_core_append' seems like a more useful lemma than reverse_core_append proper.  Maybe just have it and combine it with nil_append as needed.

File: library/init/data/nat/lemmas.lean [hunk 5]
```diff
@@ -314,6 +331,22 @@ match le.dest h with
...
+match le.dest h with
+| ⟨w, hw⟩ := @le.intro _ _ w
+  begin
+    dsimp at hw,
+    rw [add_comm _ k,add_comm m k,add_assoc] at hw,
+    apply @nat.add_left_cancel _ _ _ hw
+  end
+end
+
+lemma add_le_add_left_iff (n m k : ℕ) : n ≤ m ↔ k + n ≤ k + m
```
Comment (joehendrix) [inline library/init/data/nat/lemmas.lean]: Should the left and right hand sides be reversed for simplification.

File: library/init/data/nat/lemmas.lean [hunk 6]
```diff
@@ -730,5 +770,148 @@ lemma pred_inj : ∀ {a b : nat}, a > 0 → b > 0 → nat.pred a = nat.pred b 
...
 /- TODO(Leo): sub + inequalities -/
 
+/- div -/
+
+theorem zero_div : ∀ m : ℕ, 0 / m = 0
+  | zero := by refl
+  | (succ n) := by refl
+
+theorem div_le_div
+: ∀ {y x}, x ≤ y → ∀ z : ℕ, x / z ≤ y / z :=
```
Comment (joehendrix) [inline library/init/data/nat/lemmas.lean:780]: If we added a constraint that z \ne 0, then this could also be used as a simplification lemma if reoriented.

File: library/data/bitvec.lean [hunk 7]
```diff
@@ -165,6 +194,69 @@ private def to_string {n : nat} : bitvec n → string
...
+
+section list
+
+open list
+open subtype
+
+theorem bitvec.bits_to_nat_over_append (xs : list bool) (y : bool)
+:  bitvec.bits_to_nat (xs ++ [y]) = bitvec.bits_to_nat xs * 2 + bitvec.bits_to_nat [y]  :=
```
Comment (joehendrix) [inline library/data/bitvec.lean]: Use consistent indention in this file for proofs.

File: library/init/data/list/lemmas.lean (hunk 4 above)
Comment (joehendrix) [reply library/init/data/list/lemmas.lean]: I've also noticed that Leo intentionally didn't prove any lemmas about reverse core directly.  Do we need reverse_core_append[']?

File: library/init/data/list/lemmas.lean [hunk 8]
```diff
@@ -360,6 +382,171 @@ or.elim (mem_or_mem_of_mem_append this)
...
+:= rfl
+
+theorem foldr_append (f : α → β → β) :
+  ∀ (b : β) (l₁ l₂ : list α), foldr f b (l₁++l₂) = foldr f (foldr f b l₂) l₁
+| b nil         l₂ := rfl
+| b (cons a l₁) l₂ := congr_arg (f a) (foldr_append b l₁ l₂)
+
+end foldr
+
+section foldr_ac
```
Comment (joehendrix) [inline library/init/data/list/lemmas.lean:393]: Were the AC versions of these proofs actually used somewhere?  It seems like versions that only depend on associativity would be more generally useful.

File: library/data/bitvec.lean (hunk 2 above)
Comment (cipher1024) [reply library/data/bitvec.lean]: That's true. I'll fix it.

File: library/data/bitvec.lean (hunk 1 above)
Comment (cipher1024) [reply library/data/bitvec.lean]: You're right, list_of_nat doesn't actually need to be reducible and we don't need to duplicate the definition of list_of_nat

File: library/data/bitvec.lean (hunk 7 above)
Comment (cipher1024) [reply library/data/bitvec.lean]: Done

File: library/data/vector.lean (hunk 3 above)
Comment (cipher1024) [reply library/data/vector.lean]: I thought I needed it but I don't.

File: library/init/data/list/lemmas.lean (hunk 4 above)
Comment (cipher1024) [reply library/init/data/list/lemmas.lean]: I'm going to check where we need it. Why does Leo not prove anything about reverse_core directly?

I can do without reverse_core_append[']. I'll take it out.

File: library/init/data/list/lemmas.lean (hunk 8 above)
Comment (cipher1024) [reply library/init/data/list/lemmas.lean:393]: I don't think I can remove commutativity from the assumptions of any of those rules. Do you have something in mind about reformulating them without commutativity?

File: library/init/data/nat/lemmas.lean (hunk 6 above)
Comment (cipher1024) [reply library/init/data/nat/lemmas.lean:780]: Can you elaborate please? Why can't we use it for simplification as it stands?

File: library/init/data/nat/lemmas.lean (hunk 5 above)
Comment (cipher1024) [reply library/init/data/nat/lemmas.lean]: done

File: library/init/data/list/lemmas.lean (hunk 4 above)
Comment (joehendrix) [reply library/init/data/list/lemmas.lean]: I'm not sure why, I'd guess because it's mostly viewed as an internal function just needed to implement reverse.

File: library/init/data/list/lemmas.lean (hunk 8 above)
Comment (joehendrix) [reply library/init/data/list/lemmas.lean:393]: I was thinking associativity + identity would get similar versions, but AC has different variants.  These are fine, but I still don't quite see what theorems were important for our proofs.  e.g., I see sum_le is important, but doesn't appear to use this work.  Conversely, the sum_foldr utility seems less clear.

File: library/init/data/nat/lemmas.lean (hunk 6 above)
Comment (joehendrix) [reply library/init/data/nat/lemmas.lean:780]: I was thinking it might be useful to rewrite x /z <= y / z to x <= y.  If Lean's elaborate will already do that, then great.  I also don't think that change is critical.

File: library/init/data/nat/lemmas.lean [hunk 9]
```diff
@@ -730,5 +770,148 @@ lemma pred_inj : ∀ {a b : nat}, a > 0 → b > 0 → nat.pred a = nat.pred b 
...
+    if h : 0 < z ∧ z ≤ x then
+      have Hz : 0 < z, from h^.left,
+      have Hx : 0 < z ∧ z ≤ x,    from h,
+      have Hy : 0 < z ∧ z ≤ y,    from ⟨Hz,nat.le_trans h^.right h'⟩,
+      have Hxy_z : x - z ≤ y - z, from nat.sub_le_sub_right h' z,
+      have Hyz_z : y - z < y,     from nat.sub_lt (lt_of_lt_of_le Hz Hy^.right) Hz,
+      begin
+        rw [div_def x z,dif_pos Hx,div_def y z,dif_pos Hy,-add_le_add_right_iff] ,
+        apply IH (y - z) Hyz_z Hxy_z
+      end
```
Comment (joehendrix) [inline library/init/data/nat/lemmas.lean]: Could we get these lemmas to match the style of the other proofs in Lean's standard library.

File: library/init/data/list/lemmas.lean (hunk 8 above)
Comment (cipher1024) [reply library/init/data/list/lemmas.lean:393]: I could remove sum_foldr and sum_foldl. I put a bit more than we strictly need just so that it doesn't come out uneven. For instance, I tried to prove the same things about foldl and foldr. It allowed me to play around with the proofs and choose the one I prefer. I thought the unused theorems would still be worth keeping.

File: library/init/data/nat/lemmas.lean (hunk 6 above)
Comment (cipher1024) [reply library/init/data/nat/lemmas.lean:780]: I think I see what you mean. You're suggesting I strengthen the theorem to an equivalence (with z \ne 0 as a side condition). I'll try adding 

theorem div_le_div_of_le
: ∀ z : ℕ, z ≠ 0 → x / z ≤ y / z → x ≤ y

and

theorem div_le_div_iff_le
: ∀ z : ℕ, z ≠ 0 → ( x / z ≤ y / z ↔ x ≤ y )

and get back to you.

Comment (cipher1024) [reply library/init/data/nat/lemmas.lean:780]: Actually, I don't think that stronger theorem holds: consider x = 3, y = 2 and z = 2.

x / z = 1
y / z = 1
but 3 ≤ 2 does not hold.

I could prove a Galois connection between / and * though:

x / z ≤ y ↔ x ≤ y * z

Together with indirect equality (see below) it could provide a basis for simpler proofs about division.
theorem indirect_equality [weak_order α] (x y : α) : x = y ↔ (∀ z : α, x ≤ z ↔ y ≤ z)

Should I go ahead?

Comment (joehendrix) [reply library/init/data/nat/lemmas.lean:780]: Good catch; I'm not sure if the generalization matters.

File: library/init/data/nat/lemmas.lean [hunk 10]
```diff
@@ -730,5 +770,148 @@ lemma pred_inj : ∀ {a b : nat}, a > 0 → b > 0 → nat.pred a = nat.pred b 
...
+    have Pxz : 1 ≤ z * x,
+      from nat.mul_le_mul Pz Hpos,
+    have Pz_le_zx_z_1 : z ≤ z * x + z - 1, from calc
+         z * x + z - 1
+       = z * x + (z - 1) : by rw -nat.add_sub_assoc Pz
+...    ≥ 1 + (z - 1)     : nat.add_le_add_right Pxz _
+...    = 1 + z - 1       : by rw -nat.add_sub_assoc Pz
+...    = z               : by rw nat.add_sub_cancel_left,
+    have Pdiv : 0 < z ∧ z ≤ z * x + z - 1, from ⟨Pz,Pz_le_zx_z_1⟩,
+    calc
```
Comment (joehendrix) [inline library/init/data/nat/lemmas.lean:826]: I'd recommend a final pass to see if these proofs can be simplified via the tactics language.
